US07544812B2
A 0° C. solution of 5-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-3-(4-methyl-benzyl)-imidazolidine-2,4-dione (14.26 g, 29.3 mmol) in DMF (250 mL) was treated with sodium hydride (60% dispersion, 1.29 g, 32.2 mmol) and warmed to room temperature and stirred under N2 for 30 minutes. The resultant mixture was cooled to 0° C. and then treated with 1-propyl iodide (5.47 g, 32.2 mmol) and then warmed to room temperature and stirred for 3 h. The reaction was quenched with aqueous 1 N HCl (60 mL) and then worked up extractively with diethyl ether and water. The organic layer was dried (MgSO4) and the solvent removed in vacuo to give crude product that was purified by flash chromatography using 6:1 hexanes:acetone to afford 14.8 g (96%) 5-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-3-(4-methyl-benzyl)-1-propyl-imidazolidine-2,4-dione. MS (ES+) Calc'd for C32H40N2O3Si (M+1) 529. Found m/z 529 (100%). 1H NMR.

reactant | 5-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-3-(4-methyl-benzyl)-imidazolidine-2,4-dione | 29.3 mmol, 14.26 g | C(C)(C)(C)[Si](OCCC1C(N(C(N1)=O)CC1=CC=C(C=C1)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34N2O3Si
reactant | sodium hydride | 32.2 mmol, 1.29 g | [H-].[Na+]
reactant | 1-propyl iodide | 32.2 mmol, 5.47 g | C(CC)I | C3H7I
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 5-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-3-(4-methyl-benzyl)-1-propyl-imidazolidine-2,4-dione | 14.8 g, 96% | C(C)(C)(C)[Si](OCCC1C(N(C(N1CCC)=O)CC1=CC=C(C=C1)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H40N2O3Si
